US06323155B1
A suspension of 4-bromo-2-nitrotoluene (50 g) in water was heated to 97° C. Potassium permanganate (240 g) was then added over a period of 4.5 hours. The resulting suspension was heated at reflux overnight. The mixture was filtered whilst hot (through ‘HYFLO’ silica). The filter cake was washed through with boiling water. The cooled filtrates were washed with diethyl ether then acidified to pH 1 with concentrated hydrochloric acid. The resulting suspension was cooled in ice water and then filtered. The solid was dried to yield 4-bromo-2-nitrobenzoic acid (10.83 g) as a cream solid, m.p. 164-167° C.

reactant | 4-bromo-2-nitrotoluene | 50 g | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | Potassium permanganate | 240 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | O | H2O
product | 4-bromo-2-nitrobenzoic acid | 10.83 g | BrC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4BrNO4
